US06352993B1
Step 3: 2,4-dihydroxy-6-methoxymethyl-5-methylpyrimidine
2-amino-4-hydroxy-6-methoxymethyl-5-methylpyrimidine (2.7 g, 16 mmol) was added to 20% aqueous hydrochloric acid solution (7 ml), and heated to 70° C. A solution of sodium nitrite (2.3 g, 33.3 mmol) in water was added dropwise to a reaction mixture while maintaining the reaction temperature under 70° C. The reaction mixture was cooled to a room temperature. The resulting solid was filtered and dried to give 1.5 g of the titled compound.

reactant | 2-amino-4-hydroxy-6-methoxymethyl-5-methylpyrimidine | 16 mmol, 2.7 g | NC1=NC(=C(C(=N1)O)C)COC | C7H11N3O2
reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | sodium nitrite | 33.3 mmol, 2.3 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2,4-dihydroxy-6-methoxymethyl-5-methylpyrimidine | 1.5 g | OC1=NC(=C(C(=N1)O)C)COC | C7H10N2O3
